*****************************************************************
* NXP BUK7Y7R8-80E
*
* Polarity N-Channel
* Ratings 80V/7.800000E-003OHMS/100A
*
* Date Created Tue Feb 05 10:16:47 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y7R8-80E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.4e-10
RLS2 SOURCE 8 1.10584061406361
RLS1 8 7 0.00017

RDS 7 4 80000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00444357252656759 TC=0.0118337612024903,1.17583683483755E-06
RBD 9 4 0.000531263798600243 TC=0.0118337612024903,1.17583683483755E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 3.41495e-09
RG 1 2 2.28871376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	1941.53
+ -16	1940.18
+ -10	1935.62
+ -5	1883.62
+ -4	1986.68
+ -3	2731.81
+ -2	2270.4
+ -1	1555.7
+ -0.5	1007.2
+ -0.2	806.535
+ -0.1	730.816
+ 0	737.6715
+ 0.1	745.187
+ 0.2	646.642
+ 0.5	561.627
+ 1	445.37
+ 2	308.895
+ 3	281.717
+ 4	267.206
+ 5	257.11
+ 6	249.551
+ 8	238.535
+ 10	230.539
+ 12	224.148
+ 15	216.283
+ 20	206.23
+ 25	198.651
+ 30	192.883
+ 50	179.551



.MODEL MINT NMOS(Vto=4.14624085970218 Kp=1.504547e+002 Nfs=1210000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=88 Ibv=2.500000E-004 Rs=1E-6 Is=8.60587844415727e-13
+ N=1 M=0.700000000000001 VJ=0.77 Fc=0.5 Cjo=2.079789e-09 Tt=3.696804e-08)

.ENDS

